US08492388B2
To a stirred solution of [3-(methoxymethyl)phenyl](1-methyl-1H-tetrazol-5-yl)methanone (7.17 g, 31 mmol) in dry pyridine (50 mL) was added hydroxylamine hydrochloride (5.36 g, 77 mmol). The reaction mixture was stirred at 70° C. for 4 h, then concentrated in vacuo and diluted with ethyl acetate (200 mL) and water (100 mL). The organic layer was separated, washed with water (100 mL) and dried (MgSO4). Evaporation of the solvent in vacuo afforded N-hydroxy-1-[3-(methoxymethyl)phenyl]-1-(1-methyl-1H-tetrazol-5-yl)methanimine as a yellow oil [8.43 g, yield 99.5%; HPLC/MS:m/z=248 (M+H); log P(HCOOH)=1.54].

reactant | [3-(methoxymethyl)phenyl](1-methyl-1H-tetrazol-5-yl)methanone | 31 mmol, 7.17 g | COCC=1C=C(C=CC1)C(=O)C1=NN=NN1C | C11H12N4O2
reactant | hydroxylamine hydrochloride | 77 mmol, 5.36 g | Cl.NO
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | N-hydroxy-1-[3-(methoxymethyl)phenyl]-1-(1-methyl-1H-tetrazol-5-yl)methanimine | yield 99.5% | ON=C(C1=NN=NN1C)C1=CC(=CC=C1)COC | C11H13N5O2
